Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
sulfa drugs
 
Attending: ___
 
Chief Complaint:
pneumonia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Mr. ___ is a ___ y/o male with a past medical history of 
Alport Syndrome s/p living donor renal transplant (___) on 
immunosuppression with MMF/prednisone/neoral, gout, HTN, HLD, 
who presents with URI symptoms for about 1 month. Patient 
reports that he received the flu vaccine in ___ and two 
weeks later he developed flu like symptoms with fever, chills, 
nausea, vomiting and diarrhea. He slowly improved over 6 weeks 
however continued to complain of fatigue. Last week he went to 
the ___ clinic and labs were notable for a white count 
of 21K. He returned to the ___ clinic today and 
complained of fatigue and myalgias. A CBC showed a white count 
of 30K and CXR was concerning for multifocal pneumonia.  
 In the ED, initial VS were T 99.3, HR 108, 132/71, RR 18, 100% 
RA. Labs notable for a white count of 26K, Hb 9.4, PLT 471, 
lactate 2.3, Cr 1.9 (baseline 2.0 ), HCO3 18. UA noted to be 
negative  
 The patient was given 750 mg PO levoflaxoacin, IV ceftriaxone, 
500 mg MMF, and 1 L NS.  
 CXR showed  
 IMPRESSION:  
 Multifocal nodular opacities in the left upper lobe can 
represent  
 bronchopneumonia. Irregular opacities in the lingula have a 
more chronic appearance may be the sequelae of prior infection. 
If prior imaging is available for comparison, the images can be 
reviewed and an addendum dictated. Otherwise follow-up chest 
radiograph in 4 weeks is suggested to ensure resolution.  
 On arrival to the floor, patient reports he feels well. He 
denies any pain, cough, or shortness of breath. He notes that 
about 1 week ago he developed URI symptoms with sore throat and 
cough associated with body aches noting he believes he had the 
flu. He denies any abdominal pain, diarrhea, or nausea vomiting. 
He no longer has a cough. He also denies any fever or chills.  
 REVIEW OF SYSTEMS:  
 Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 All other 10-system review negative in detail.  

 
Past Medical History:
CHRONIC KIDNEY DISEASE  
 ALPORT SYNDROME  
 RENAL TRANSPLANT  
 HYPERLIPIDEMIA  
 HYPERTENSION  
 RENAL TRANSPLANT  
 CYSTOSCOPY  
 FISTULA  

 
Social History:
___
Family History:
Mother and sister with alport syndrome  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - Temp 98.4, BP 120/79, HR 88, RR 16, 98% RA
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition NECK: nontender supple neck, no LAD, no JVD
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles ABDOMEN: nondistended, +BS, 
nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly EXTREMITIES: no cyanosis, clubbing or edema, 
moving all 4 extremities with purpose PULSES: 2+ DP pulses 
bilaterally
SKIN: warm and well perfused, no excoriations or lesions, no

DISCHARGE PHYSICAL EXAM:
VS: 97.8 119/73 69 18 100% RA
GENERAL: NAD
HEENT: AT/NC, 
NECK: supple neck
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles 
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 01:10PM BLOOD WBC-30.3* RBC-3.16* Hgb-9.3* Hct-30.0* 
MCV-95 MCH-29.4 MCHC-31.0* RDW-14.4 RDWSD-50.2* Plt ___
___ 01:10PM BLOOD Neuts-85.0* Lymphs-5.0* Monos-7.9 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-25.78*# AbsLymp-1.52 
AbsMono-2.39* AbsEos-0.08 AbsBaso-0.07
___ 01:10PM BLOOD Hypochr-OCCASIONAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL
___ 01:10PM BLOOD Plt Smr-HIGH Plt ___
___ 09:00PM BLOOD Glucose-99 UreaN-36* Creat-1.9* Na-141 
K-4.6 Cl-107 HCO3-18* AnGap-21*
___ 01:10PM BLOOD ALT-24 AST-19 CK(CPK)-120 AlkPhos-43
___ 05:56AM BLOOD Calcium-9.7 Phos-3.9 Mg-1.4*
___ 01:10PM BLOOD CRP-15.5*
___ 08:35PM BLOOD Lactate-2.3*

DISCHARGE LABS:
___ 04:22AM BLOOD WBC-21.5* RBC-3.37* Hgb-10.0* Hct-31.1* 
MCV-92 MCH-29.7 MCHC-32.2 RDW-14.3 RDWSD-47.9* Plt ___
___ 04:22AM BLOOD ___ PTT-28.9 ___
___ 04:22AM BLOOD Glucose-81 UreaN-32* Creat-1.8* Na-139 
K-4.5 Cl-104 HCO3-22 AnGap-18
___ 04:22AM BLOOD Calcium-9.7 Phos-5.5*# Mg-1.9
___ 01:57AM BLOOD Lactate-0.9

IMAGING:
CXR ___ IMPRESSION:
Multifocal nodular opacities in the left upper lobe can 
represent bronchopneumonia. Irregular opacities in the lingula 
have a more chronic appearance may be the sequelae of prior 
infection. If prior imaging is available for comparison, the 
images can be reviewed and an addendum dictated. Otherwise 
follow-up chest radiograph in 4 weeks is suggested to ensure 
resolution.

MICRO:
__________________________________________________________
___ 1:17 pm Immunology (CMV)

   CMV Viral Load (Pending): 
__________________________________________________________
___ 9:33 am MRSA SCREEN      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 10:17 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 10:33 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
__________________________________________________________
___ 9:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 8:35 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a past medical history of 
Alport Syndrome s/p living donor renal transplant (___) on 
immunosuppression with MMF/prednisone/neoral, gout, HTN, HLD, 
who presents with URI symptoms and leukocytosis concerning for 
walking pneumonia. 

# Sepsis: Likely secondary to community acquired pneumonia. 
Patient meeting SIRS criteria secondary to tachycardia, 
leukocytosis and source of infection likely being PNA. Also had 
lactate elevation. Patient given ceftriaxone and levofloxacin in 
the ED. Initially broadened to vanco, cefepime, and azithro 
given sepsis and immunosuppression. The patient was given 1L IVF 
in the ED and his lactate improved. Likely etiology of pneumonia 
is post-viral bacterial infection vs. ongoing viral pneumonia. 
TB unlikely as previous negative PPD and no risk factors.  
Legionella Ag negative. Other etiologies of infection including 
UTI unlikely given normal UA and absence of symptoms. Discharged 
on Levaquin to complete ___lport syndrome s/p transplant ___: continue neoral, MMF, and 
prednisone

# Anion Gap Acidosis: Likely secondary to elevated lacate in 
setting of infection. Repeat lactate normalized

# Hypertension: Continued diltiazem, held lisinopril in setting 
of infection and risk of ___, can be restarted at f/u 

# Hyperlipidemia: atorvastatin

# Gout: Continued on Prednisone, allopurinol at reduced dose 
(200mg) given kidney injury

Transitional issues:
- Repeat CXR in ___ weeks to document resolution of LUL 
infiltrate
- Cont levaquin for ___ompletes ___
- At rheum followup, discuss if 10 mg prednisone continues to be 
necessary for treatment of gout
- F/u CMV Viral Load and other pending microbiology results
- Consider restarting lisinopril
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Ampicillin ___ mg PO ONCE BEFORE DENTAL WORK 
3. Atorvastatin 10 mg PO QPM 
4. CycloSPORINE (Neoral) MODIFIED 100 mg PO QAM 
5. CycloSPORINE (Neoral) MODIFIED 75 mg PO QPM 
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. Mycophenolate Mofetil 500 mg PO BID 
8. PredniSONE 10 mg PO DAILY 
9. Calcium Carbonate 500 mg PO QID:PRN reflux 
10. calcium carbonate-vitamin D3 500 mg(1,250mg) -200 unit oral 
daily 
11. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Calcium Carbonate 500 mg PO QID:PRN reflux 
4. CycloSPORINE (Neoral) MODIFIED 100 mg PO QAM 
5. CycloSPORINE (Neoral) MODIFIED 75 mg PO QPM 
6. Mycophenolate Mofetil 500 mg PO BID 
7. Omeprazole 20 mg PO DAILY 
8. PredniSONE 10 mg PO DAILY 
9. Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
10. Ampicillin ___ mg PO ONCE BEFORE DENTAL WORK 
11. calcium carbonate-vitamin D3 500 mg(1,250mg) -200 unit oral 
daily 
12. Diltiazem Extended-Release 240 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia
S/p renal transplant
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were seen at ___ for your pneumonia. You were treated with 
antibiotics. Please continue to take your antibiotics as 
prescribed for the complete course. 

We wish you all the best,

Your ___ team
 
Followup Instructions:
___